US05091419
To a solution of 2.7 g p-xylylenediamine in 100 ml methylene dichloride, was added slowly with stirring 10 ml of a n-hexan solution containing 990 mg t-butyl isocyanate under ice cooling. Stirring was continued at room temperature for two hours, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography, giving 1 g of 4-(3-t-butylureidomethyl)-1-aminomethylbenzene.

reactant | p-xylylenediamine | 2.7 g | C1(=CC=C(C=C1)CN)CN | C8H12N2
reactant | n-hexan | 10 ml | CCCCCC | C6H14
reactant | t-butyl isocyanate | 990 mg | C(C)(C)(C)N=C=O | C5H9NO
solvent | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-t-butylureidomethyl)-1-aminomethylbenzene | 1 g | C(C)(C)(C)NC(NCC1=CC=C(C=C1)CN)=O | C13H21N3O
